US04490369
1[7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(2-{3,4,5-trimethoxy-phenyl}-ethyl)-amino]-propane hydrochloride
This compound was prepared analogous to Example 5(b) by reacting 1-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-chloro-propane with N-methyl-N-[2-(3,4,5-trimethoxy-phenyl)-ethyl]-amine.

reactant | 1-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-chloro-propane | COC1=CC2=C(CC(N(CC2)C(CC)Cl)=O)C=C1OC | C15H20ClNO3
reactant | N-methyl-N-[2-(3,4,5-trimethoxy-phenyl)-ethyl]-amine | CNCCC1=CC(=C(C(=C1)OC)OC)OC | C12H19NO3
product | 1[7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(2-{3,4,5-trimethoxy-phenyl}-ethyl)-amino]-propane hydrochloride | Cl.COC1=CC2=C(CC(N(CC2)CCCN(CCC2=CC(=C(C(=C2)OC)OC)OC)C)=O)C=C1OC | InChI=1S/C27H38N2O6.ClH/c1-28(12-8-19-14-24(33-4)27(35-6)25(15-19)34-5)10-7-11-29-13-9-20-16-22(31-2)23(32-3)17-21(20)18-26(29)30;/h14-17H,7-13,18H2,1-6H3;1H
